US03950525
E. 4-Diethylamino-6-phenylpyrimidine hydrochloride (IV; X = H; R1, R2 = C2H5)
To a solution of 1.5 ml. of dimethylformamide containing 4-diethylaminobenzothieno[3,2-d]pyrimidine (2.0 g.) is added a large excess of Raney nickel and the resulting mixture heated to reflux. Water is allowed to distill from the reaction mixture until the temperature reaches 150° C. where refluxing is continued with rapid stirring for 48 hours. The solids are filtered and the filtrate concentrated in vacuo to an oil. The residual oil is partitioned between water and chloroform and the organic layer separated and dried over sodium sulfate. Removal of the solvent under reduced pressure provides an oil which when dissolved in ethyl ether and treated with gaseous hydrogen chloride provides 1.4 g. of the hydrochloride salt of the desired product, which is identical in every respect to that synthesized via Method A.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 4-diethylaminobenzothieno[3,2-d]pyrimidine | 2.0 g | C(C)N(C=1C2=C(N=CN1)C1=C(S2)C=CC=C1)CC | C14H15N3S
reactant | Water | O | H2O
reactant | hydrogen chloride | Cl | ClH
catalyst | Raney nickel | [Ni] | Ni
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-Diethylamino-6-phenylpyrimidine hydrochloride | Cl.C(C)N(C1=NC=NC(=C1)C1=CC=CC=C1)CC | InChI=1S/C14H17N3.ClH/c1-3-17(4-2)14-10-13(15-11-16-14)12-8-6-5-7-9-12;/h5-11H,3-4H2,1-2H3;1H
